US08541588B2
tert-butyl 4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-4-fluorophenyl]-1H-pyrazole-1-carboxylate
The title compound was prepared using a method analogous to that for Preparation 733 below, using 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 68) and tert-butyl 4-(5-chloro-4-fluoro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate (Preparation 743). Purification was by column chromatography (silica, heptane-ethyl acetate 10-60% v/v).

reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
reactant | tert-butyl 4-(5-chloro-4-fluoro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate | ClC=1C(=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)O)F | C14H14ClFN2O3
product | tert-butyl 4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-4-fluorophenyl]-1H-pyrazole-1-carboxylate | ClC=1C(=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)OC1=C(C=C(C=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C#N)F | C32H28ClFN6O7S2
